US04182776
2-(2-Thienyl)ethanol O-methanesulfonate
A mixture of 12.8 g of 2-(2-thienyl)ethanol and 20.2 g of triethylamine in 500 ml of dichloromethane is reacted with 12.6 g of methanesulfonyl chloride as described in Example 2 to give the product as an oil.

reactant | 2-(2-thienyl)ethanol | 12.8 g | S1C(=CC=C1)CCO | C6H8OS
reactant | triethylamine | 20.2 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 12.6 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | 2-(2-Thienyl)ethanol O-methanesulfonate | CS(=O)(=O)OCCC=1SC=CC1 | C7H10O3S2
